US08981084B2
((1S,4S)-5-(Pyridin-2-yl)-2,5-diazabicyclo[2.2.1]heptan-2-yl)(3-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)phenyl)methanone
This compound was synthesized from (1S,4S)-2-(pyridin-2-yl)-2,5-diazabicyclo[2.2.1]heptane TFA salt and 3-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)benzoic acid as described for example 37 step 3 (30 mg, yield 27%). 1H NMR (400 MHz, CDCl3) δ8.28-8.07 (m, 3H), 7.74-7.71 (m, 1H), 7.65-7.43 (m, 2H), 6.66-6.55 (m, 1H), 6.45-6.33 (m, 1H), 5.16-4.94 (m, 2H), 3.82-3.49 (m, 4H), 2.10-2.05 (m, 2H). MS (ESI) m/z: Calculated for C20H16F3N5O2: 415.13. found: 416.2 (M+H)+

reactant | (1S,4S)-2-(pyridin-2-yl)-2,5-diazabicyclo[2.2.1]heptane TFA salt | OC(=O)C(F)(F)F.N1=C(C=CC=C1)N1[C@@H]2CN[C@H](C1)C2
reactant | 3-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)benzoic acid | FC(C1=NC(=NO1)C=1C=C(C(=O)O)C=CC1)(F)F | C10H5F3N2O3
product | ((1S,4S)-5-(Pyridin-2-yl)-2,5-diazabicyclo[2.2.1]heptan-2-yl)(3-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)phenyl)methanone | yield 27% | N1=C(C=CC=C1)N1[C@@H]2CN([C@H](C1)C2)C(=O)C2=CC(=CC=C2)C2=NOC(=N2)C(F)(F)F | C20H16F3N5O2
